US07906549B2
ethyl 1-benzylazetidine-3-carboxylate
Tetraethylammonium acetate tetrahydrate (9.42 g) was added to a 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU, 40 mL) solution of diethyl 1-benzylazetidine-3,3-dicarboxylate (7.00 g, which was prepared according to the method described in Synthetic Communications, volume 33, No. 19, page 3347, 2003), followed by stirring at 130° C. for 12 hours. The reaction solution was added with water, and extracted with an ethyl acetate-hexane (1:1) mixed solvent. The organic layer was washed with water, hexane was added, and extracted with 0.5 mol/L hydrochloric acid. The aqueous layer was washed with tert-butyl methyl ether, and the pH was adjusted to 8 using a 5 mol/L aqueous sodium hydroxide solution, followed by further extraction with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated, to thereby obtain the title compound (3.21 g) having the following physical properties.

reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 40 mL | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | diethyl 1-benzylazetidine-3,3-dicarboxylate | C(C1=CC=CC=C1)N1CC(C1)(C(=O)OCC)C(=O)OCC | C16H21NO4
catalyst | Tetraethylammonium acetate tetrahydrate | 9.42 g | O.O.O.O.C(C)(=O)[O-].C(C)[N+](CC)(CC)CC
solvent | water | O | H2O
product | ethyl 1-benzylazetidine-3-carboxylate | 3.21 g | C(C1=CC=CC=C1)N1CC(C1)C(=O)OCC | C13H17NO2
